US09315458B2
C) 2-fluoro-4-(hydroxymethyl)-N-methylbenzamide
To a solution of 2-fluoro-4-formyl-N-methylbenzamide (0.62 g) in methanol (17 mL) was added sodium borohydride (0.16 g) in small portions, and the mixture was stirred at room temperature for 3 days. To the reaction mixture was added aqueous ammonium chloride, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.44 g).

reactant | 2-fluoro-4-formyl-N-methylbenzamide | 0.62 g | FC1=C(C(=O)NC)C=CC(=C1)C=O | C9H8FNO2
reactant | sodium borohydride | 0.16 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 17 mL | CO | CH4O
product | 2-fluoro-4-(hydroxymethyl)-N-methylbenzamide | 0.44 g | FC1=C(C(=O)NC)C=CC(=C1)CO | C9H10FNO2
